US09193697B2
Step B42-1: methyl 4-({2-[(4-chlorophenyl)sulfanyl]ethyl}carbamoyl)cyclohexanecarboxylate
To a solution of 2-[(4-chlorophenyl)sulfanyl]ethanamine (12.2 g, 542 mmol) in DMF (350 ml) was added sequentially 4-(methoxycarbonyl)cyclohexanecarboxylic acid (cis/trans mixture), EDC (11.4 g, 59.7 mmol) and HOAt (1.48 g, 10.9 mmol) at room temperature followed by Et3N (17.39 ml, 125 mmol). The reaction was stirred overnight at ambient temperature, diluted with water and extracted with EtOAc. The combined organic layers were dried (Na2SO4), filtered and conc. The residue was purified by silica gel flash chromatography (0-70% EtOAc in heptane) to afford the product. LCMS: M+H=356.1.

reactant | 2-[(4-chlorophenyl)sulfanyl]ethanamine | 542 mmol, 12.2 g | ClC1=CC=C(C=C1)SCCN | C8H10ClNS
reactant | 4-(methoxycarbonyl)cyclohexanecarboxylic acid | COC(=O)C1CCC(CC1)C(=O)O | C9H14O4
reactant | EDC | 59.7 mmol, 11.4 g
reactant | HOAt | 10.9 mmol, 1.48 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | Et3N | 125 mmol, 17.39 ml | CCN(CC)CC | C6H15N
solvent | DMF | 350 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 4-({2-[(4-chlorophenyl)sulfanyl]ethyl}carbamoyl)cyclohexanecarboxylate | ClC1=CC=C(C=C1)SCCNC(=O)C1CCC(CC1)C(=O)OC | C17H22ClNO3S
